### ISSUE TITLE
Tractatus: integrate silence with expressibility theory

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10834]
## Problem

`axiom silence : True` is currently decorative — not structurally connected to the formalization's results.

### 1. Define `Nontrivial`

```lean
def Nontrivial (p : Proposition S) : Prop :=
  ∃ w₁ w₂ : World S, p.eval w₁ ∧ ¬ p.eval w₂
```

### 2. Connect to existing saying/showing theorems

- Prove `Nontrivial` is equivalent to "neither tautology nor contradiction"
- Show `contingent_propositions_vary` gives the forward direction
- State: "a proposition nontrivially expresses P only if P is world-dependent"

### 3. Reframe silence

The axiom should emerge as a boundary marker at the point where the formalization proves its own limits — after `saying_showing_triviality` shows that world-independent content can only be expressed trivially.

## Why

Per peer review: "Silence emerges as a theorem boundary, not just an axiom." The expressibility theory makes the philosophical gesture structurally meaningful.

## References

- Peer review round 2, section 3.2
- TLP 7, 4.12-4.1212

**Comment by rjwalters** [comment]
Curating this issue per user request.

## Implementation Guidance

### File to Modify

`proofs/Proofs/TractatusOntology.lean` (842 lines) — one self-contained file, no companion files needed.

**Note**: The file currently contains unresolved merge conflict markers at two locations (lines ~248–337 and ~631–680) from the `WorldModel` generalization branch. The builder must resolve those conflicts before or as part of this work. The conflict is additive — the incoming branch adds `WorldModel`, `freeModel`, `evalM`, `IsTautologyM`, `IsContradictionM`, and `truth_functional_compositionality_gen`, plus a `WeatherFacts` constrained-world example. None of those additions conflict with the changes requested here.

---

### 1. Exact Insertion Point for `Nontrivial`

`Nontrivial` belongs immediately after the `IsContradiction` definition (currently line 244–245) and before the section heading that begins the core theorems. That placement follows the pattern of `IsTautology` / `IsContradiction` as semantic predicates and makes `Nontrivial` visible to all downstream theorems.

```lean
-- After IsContradiction:
def IsContradiction (p : Proposition S) : Prop :=
  ∀ w : World S, ¬ (p.eval w)

/-- TLP 4.46, 4.462: A proposition that varies across possible worlds —
    neither a tautology nor a contradiction. The logical space it carves
    out is genuinely world-dependent content. -/
def Nontrivial (p : Proposition S) : Prop :=
  ∃ w₁ w₂ : World S, p.eval w₁ ∧ ¬ p.eval w₂
```

The `[Nonempty S]` constraint does NOT belong on the definition itself — it belongs on theorems that use `Nontrivial`, following the same pattern as `saying_showing_triviality` and `contingent_propositions_vary`.

---

### 2. Connecting `Nontrivial` to Existing Theorems

Three theorems complete the structural chain. All three require `[Nonempty S]` to avoid vacuous models.

**Theorem A — Equivalence with the complement of tautology/contradiction:**

```lean
theorem nontrivial_iff_not_taut_not_contra (q : Proposition S) [Nonempty S] :
    Nontrivial q ↔ ¬ IsTautology q ∧ ¬ IsContradiction q := by
  constructor
  · rintro ⟨w₁, w₂, h₁, h₂⟩
    exact ⟨fun ht => h₂ (ht w₂), fun hc => h₁ (hc w₁ h₁)⟩
  · intro ⟨hnt, hnc⟩
    -- contingent_propositions_vary already proves this direction
    exact contingent_propositions_vary q hnt hnc
```

Note: `contingent_propositions_vary` (line 717–726) proves exactly the existential `∃ w₁ w₂, q.eval w₁ ∧ ¬ q.eval w₂`, which is the unfolding of `Nontrivial q`. Theorem A is therefore a thin wrapper that names the bidirectional equivalence.

**Theorem B — `contingent_propositions_vary` is the forward direction of `Nontrivial`:**

```lean
theorem nontrivial_of_not_taut_not_contra (q : Proposition S) [Nonempty S]
    (h_not_taut : ¬ IsTautology q)
    (h_not_contra : ¬ IsContradiction q) :
    Nontrivial q :=
  contingent_propositions_vary q h_not_taut h_not_contra
```

This theorem should be placed immediately after the `Nontrivial` definition, cross-referencing `contingent_propositions_vary` explicitly so builders can see the proof chain without scrolling.

**Theorem C — World-dependent expressibility:**

```lean
/-- A proposition nontrivially expresses content P only if P varies
    with the world — i.e., P cannot be world-independent.
    Contrapositive of `saying_showing_triviality`. -/
theorem nontrivial_expressibility_requires_world_dependence
    (q : Proposition S) (P : Prop) [Nonempty S]
    (hnt : Nontrivial q)
    (h : ∀ w : World S, q.eval w ↔ P) :
    False := by
  obtain ⟨w₁, w₂, h₁, h₂⟩ := hnt
  exact h₂ ((h w₁).mp h₁ |>.elim (fun hp => (h w₂).mpr hp) id)
```

Alternatively (and more readably), derive it from `saying_showing_triviality`:

```lean
theorem nontrivial_expressibility_requires_world_dependence
    (q : Proposition S) (P : Prop) [Nonempty S]
    (hnt : Nontrivial q)
    (h : ∀ w : World S, q.eval w ↔ P) :
    False := by
  rcases saying_showing_triviality q P h with htaut | hcontra
  · obtain ⟨w₁, _, h₁, _⟩ := hnt
    -- hnt gives a world where q fails, htaut says it holds everywhere
    obtain ⟨_, w₂, _, h₂⟩ := hnt
    exact h₂ (htaut w₂)
  · obtain ⟨w₁, _, h₁, _⟩ := hnt
    exact hcontra w₁ h₁
```

This placement — after `proposition_seven` and before `axiom silence` — makes the logical sequence explicit: (1) world-independent content can only be expressed trivially; (2) a nontrivial proposition therefore cannot express world-independent content; (3) silence.

---

### 3. Reframing the `axiom silence` Docstring

Current docstring (lines 762–767) describes the axiom as "marking the boundary of formalization-by-design." After the new theorems, the docstring should reflect that the boundary is *earned* by the proof chain:

```lean
/-- TLP 7: *Wovon man nicht sprechen kann, darüber muss man schweigen.*

    This axiom no longer stands alone as a bare gesture. The theorems
    above prove that:
      - World-independent content can only be expressed trivially
        (`saying_showing_triviality`, `proposition_seven`).
      - A nontrivial proposition cannot express world-independent content
        (`nontrivial_expressibility_requires_world_dependence`).
      - Therefore, the domain of genuine saying — propositions that vary
        across worlds — is provably bounded by what the formalization
        can reach.

    Silence does not announce a gap in the proof; it marks the edge of
    the logical space that has been completely characterized. What lies
    beyond this boundary is not the result of a missing proof obligation
    but a structural feature: the saying/showing distinction cannot be
    captured within the same formalism that draws it. -/
axiom silence : True
```

---

### 4. Section Ordering

After the merge conflict is resolved, the recommended section order in the "Limits of Formalization" block is:

1. `world_constant_taut_or_contra` (existing lemma)
2. `saying_showing_triviality` (existing theorem)
3. `contingent_propositions_vary` (existing theorem)
4. `Nontrivial` definition (new)
5. `nontrivial_of_not_taut_not_contra` (new — immediate corollary)
6. `nontrivial_iff_not_taut_not_contra` (new — bidirectional equivalence)
7. `proposition_seven` (existing — already delegates to `saying_showing_triviality`)
8. `nontrivial_expressibility_requires_world_dependence` (new — contrapositive bridge)
9. `axiom silence` with revised docstring

---

## Affected Files

- `proofs/Proofs/TractatusOntology.lean` — Add `Nontrivial` definition after `IsContradiction` (line ~245); add three new theorems after `contingent_propositions_vary` (line ~726) and before `axiom silence` (line 768); revise `axiom silence` docstring; resolve merge conflict markers.

No other files need modification. The gallery annotations (`src/data/proofs/tractatus-ontology/`) may benefit from a follow-up enrichment pass to reference the new structural chain, but that is not part of this issue's acceptance criteria.

---

## Acceptance Criteria

- [ ] `def Nontrivial` exists in the file, placed after `IsContradiction`, with docstring citing TLP 4.46/4.462
- [ ] `theorem nontrivial_of_not_taut_not_contra` exists and delegates to `contingent_propositions_vary`
- [ ] `theorem nontrivial_iff_not_taut_not_contra` exists and compiles cleanly
- [ ] `theorem nontrivial_expressibility_requires_world_dependence` exists and derives from or delegates to `saying_showing_triviality`
- [ ] `axiom silence` docstring explicitly references the theorem chain (not just "marks a boundary")
- [ ] Merge conflict markers are resolved (no `<<<<<<<`, `=======`, `>>>>>>>` lines remain)
- [ ] File builds successfully via `./proofs/scripts/docker-build.sh Proofs.TractatusOntology`

## Test Plan

- [ ] Manual verification: `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` completes without errors or `sorry` warnings for the new definitions/theorems
- [ ] Automated tests: N/A — this is a Lean 4 proof file; type-checking IS the test
- [ ] Edge cases: Confirm `[Nonempty S]` is not on the `Nontrivial` definition itself (only on theorems that use it); confirm `Nontrivial` unfolds correctly against the `TwoFacts` concrete instantiation (e.g., `itRains` is `Nontrivial TwoFacts` since `rainyWorld` and a snowy world witness the existential)
- [ ] Docstring review: Confirm the revised `axiom silence` docstring reads as earned conclusion, not decorative annotation
